US08349828B2
M.i. 8-allyl-2-methoxy-[1,5]naphthyridine
A flask charged with trifluoro-methanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester (2.50 g, 8.11 mmol; prepared according to WO 2007/107965), allyltributyltin (3.11 mL, 1.25 eq.) and DMF (20 mL) was degassed with 1\12. LiCl (1.29 g, 3.75 eq.) and Pd(PPh3)4 (234 mg, 0.025 eq.) were added and the mixture was stirred at 100° C. for 2 h. After cooling to rt the mixture was poured into 10% aq. NH4OH and EA, the aq layer was extracted with EA and the combined org. layers were washed with water (2×) and brine, dried over MgSO4 and concentrated. The residue was purified by CC (Hept/EA 2:1) to afford the title intermediate as a yellow oil (1.59 g, 98% yield).

reactant | trifluoro-methanesulfonic acid 6-methoxy-[1,5]naphthyridin-4-yl ester | 8.11 mmol, 2.50 g | COC=1N=C2C(=CC=NC2=CC1)OS(=O)(=O)C(F)(F)F | C10H7F3N2O4S
reactant | allyltributyltin | 3.11 mL, 1.25 eq. | C(C=C)[Sn](CCCC)(CCCC)CCCC
reactant | LiCl | 1.29 g, 3.75 eq. | [Li+].[Cl-]
reactant | NH4OH | [NH4+].[OH-]
catalyst | Pd(PPh3)4 | 234 mg, 0.025 eq. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EA | CC(OCC)=O | C4H8O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 8-allyl-2-methoxy-[1,5]naphthyridine | 1.59 g, 98% yield | C(C=C)C=1C=CN=C2C=CC(=NC12)OC | C12H12N2O
